US06921762B2
Step D: 5-(1-(t-butoxycarbonyl)piperidin-4-yl)-7-(2-(1(S)-phenylethyl)amino-4-pyridyl)-8-(3-(trifluoromethyl)phenyl)-1,2,4-triazolo[4,3-c]pyrimidine
5-(1-(t-Butoxycarbonyl)-1,2,3,6-tetrahydropyrid-4-yl)-7-(2-(1(S)-phenylethyl)amino-4-pyridyl)-8-(3-(trifluoromethyl)phenyl)-1,2,4-triazolo[4,3-c]pyrimidine (0.12 g, 0.2 mmol) and platinum oxide (0.03 g, 0.13 mmol) were combined in ethanol (5 ml) and maintained at room temperature under an atmosphere of hydrogen for 18 hours. The catalyst was removed by filtration and the filtrate was concentrated to a syrup. The residue was purified by column chromatography on silica gel (30% ethyl acetate in hexane) to give the product as a syrup; MS m/z (M+H)+ 644.5; C35H36F3N7O2 require 643.3.

reactant | 5-(1-(t-Butoxycarbonyl)-1,2,3,6-tetrahydropyrid-4-yl)-7-(2-(1(S)-phenylethyl)amino-4-pyridyl)-8-(3-(trifluoromethyl)phenyl)-1,2,4-triazolo[4,3-c]pyrimidine | 0.2 mmol, 0.12 g | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=NC(=C(C=2N1C=NN2)C2=CC(=CC=C2)C(F)(F)F)C2=CC(=NC=C2)N[C@@H](C)C2=CC=CC=C2 | C35H34F3N7O2
solvent | ethanol | 5 ml | C(C)O | C2H6O
catalyst | platinum oxide | 0.13 mmol, 0.03 g | [Pt]=O
product | 5-(1-(t-butoxycarbonyl)piperidin-4-yl)-7-(2-(1(S)-phenylethyl)amino-4-pyridyl)-8-(3-(trifluoromethyl)phenyl)-1,2,4-triazolo[4,3-c]pyrimidine | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=NC(=C(C=2N1C=NN2)C2=CC(=CC=C2)C(F)(F)F)C2=CC(=NC=C2)N[C@@H](C)C2=CC=CC=C2 | C35H36F3N7O2
